* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.02278046737057078
Fd1_1 0 s1 V1 1.1390233685285391
Gr1_re_1_1 0 s1 x1_re_a1 0 3826887925.552232
Gr1_im_1_1 0 s1 x1_im_a1 0 1175872197.5810096
Gr2_re_1_1 0 s1 x2_re_a1 0 9360892443.960154
Gr2_im_1_1 0 s1 x2_im_a1 0 -30408807224.24595
Gr3_re_1_1 0 s1 x3_re_a1 0 -16842270653.847237
Gr3_im_1_1 0 s1 x3_im_a1 0 -2168437444.666835
Gr4_1_1 0 s1 x4_a1 0 -21362794294.73304
Gr5_1_1 0 s1 x5_a1 0 5051624253.1371565
Gr6_1_1 0 s1 x6_a1 0 -1460294791.4692435
Gr7_1_1 0 s1 x7_a1 0 464668034.18943125
Gr8_re_1_1 0 s1 x8_re_a1 0 -1129986.6306770677
Gr8_im_1_1 0 s1 x8_im_a1 0 -14153762.48423698
Gr9_1_1 0 s1 x9_a1 0 -126715684.89481951
Gr10_1_1 0 s1 x10_a1 0 -1330461.54942836
Gr11_1_1 0 s1 x11_a1 0 25154308.206980933
Gd1_2 0 s1 p2 0 0.015059667846382345
Fd1_2 0 s1 V2 0.7529833923191173
Gr1_re_1_2 0 s1 x1_re_a2 0 2195896285.666453
Gr1_im_1_2 0 s1 x1_im_a2 0 -6090927732.9609165
Gr2_re_1_2 0 s1 x2_re_a2 0 2982746162.6762156
Gr2_im_1_2 0 s1 x2_im_a2 0 -3514496109.172278
Gr3_re_1_2 0 s1 x3_re_a2 0 -14243585086.829966
Gr3_im_1_2 0 s1 x3_im_a2 0 -1200245146.0421405
Gr4_1_2 0 s1 x4_a2 0 -124137438.51051311
Gr5_1_2 0 s1 x5_a2 0 3838457706.0666947
Gr6_1_2 0 s1 x6_a2 0 -1124964329.9693747
Gr7_1_2 0 s1 x7_a2 0 367927947.4694838
Gr8_re_1_2 0 s1 x8_re_a2 0 -790579.1996426772
Gr8_im_1_2 0 s1 x8_im_a2 0 -11253711.400241045
Gr9_1_2 0 s1 x9_a2 0 -100211904.32056032
Gr10_1_2 0 s1 x10_a2 0 -1026761.309662944
Gr11_1_2 0 s1 x11_a2 0 20481702.966701254
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 1.4729419532564112e-10
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 20259711557.943943
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -20259711557.943943
Rp1_im_im_a1 0 x1_im_a1 1.4729419532564112e-10
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 8.20593575249297e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 13579574649.272963
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -13579574649.272963
Rp2_im_im_a1 0 x2_im_a1 8.20593575249297e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.0795911212066266e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 8719849926.384306
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -8719849926.384306
Rp3_im_im_a1 0 x3_im_a1 1.0795911212066266e-10
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.1349944758750878e-10
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 1.7700170340651147e-10
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 2.8456346242712675e-10
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 4.658982813534288e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.1776302339189294e-09
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 738895527.3320279
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -738895527.3320279
Rp8_im_im_a1 0 x8_im_a1 1.1776302339189294e-09
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 1.0136996117722664e-09
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 6.16838441105467e-09
Cx11_a1 x11_a1 0 1.0
Gx11_a1 0 x11_a1 p1 0 0.07071067811865475
Fx11_a1 0 x11_a1 V1 3.5355339059327378
Rp11_a1 0 x11_a1 1.7806907852206085e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.015059667846382345
Fd2_1 0 s2 V1 0.7529833923191173
Gr1_re_2_1 0 s2 x1_re_a1 0 2195896285.666453
Gr1_im_2_1 0 s2 x1_im_a1 0 -6090927732.9609165
Gr2_re_2_1 0 s2 x2_re_a1 0 2982746162.6762156
Gr2_im_2_1 0 s2 x2_im_a1 0 -3514496109.172278
Gr3_re_2_1 0 s2 x3_re_a1 0 -14243585086.829966
Gr3_im_2_1 0 s2 x3_im_a1 0 -1200245146.0421405
Gr4_2_1 0 s2 x4_a1 0 -124137438.51051311
Gr5_2_1 0 s2 x5_a1 0 3838457706.0666947
Gr6_2_1 0 s2 x6_a1 0 -1124964329.9693747
Gr7_2_1 0 s2 x7_a1 0 367927947.4694838
Gr8_re_2_1 0 s2 x8_re_a1 0 -790579.1996426772
Gr8_im_2_1 0 s2 x8_im_a1 0 -11253711.400241045
Gr9_2_1 0 s2 x9_a1 0 -100211904.32056032
Gr10_2_1 0 s2 x10_a1 0 -1026761.309662944
Gr11_2_1 0 s2 x11_a1 0 20481702.966701254
Gd2_2 0 s2 p2 0 0.022702422064456818
Fd2_2 0 s2 V2 1.135121103222841
Gr1_re_2_2 0 s2 x1_re_a2 0 3839236141.3406577
Gr1_im_2_2 0 s2 x1_im_a2 0 1049822936.1087337
Gr2_re_2_2 0 s2 x2_re_a2 0 9087906957.680826
Gr2_im_2_2 0 s2 x2_im_a2 0 -29896298840.91256
Gr3_re_2_2 0 s2 x3_re_a2 0 -16591429972.978603
Gr3_im_2_2 0 s2 x3_im_a2 0 -2243482841.092063
Gr4_2_2 0 s2 x4_a2 0 -21198077735.95272
Gr5_2_2 0 s2 x5_a2 0 5020001140.610599
Gr6_2_2 0 s2 x6_a2 0 -1453135194.2296493
Gr7_2_2 0 s2 x7_a2 0 462923302.2043709
Gr8_re_2_2 0 s2 x8_re_a2 0 -1112086.7489580843
Gr8_im_2_2 0 s2 x8_im_a2 0 -14121249.819969373
Gr9_2_2 0 s2 x9_a2 0 -126411763.47616552
Gr10_2_2 0 s2 x10_a2 0 -1329158.5346275652
Gr11_2_2 0 s2 x11_a2 0 25110518.924582805
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 1.4729419532564112e-10
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 20259711557.943943
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -20259711557.943943
Rp1_im_im_a2 0 x1_im_a2 1.4729419532564112e-10
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 8.20593575249297e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 13579574649.272963
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -13579574649.272963
Rp2_im_im_a2 0 x2_im_a2 8.20593575249297e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.0795911212066266e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 8719849926.384306
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -8719849926.384306
Rp3_im_im_a2 0 x3_im_a2 1.0795911212066266e-10
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.1349944758750878e-10
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 1.7700170340651147e-10
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 2.8456346242712675e-10
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 4.658982813534288e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.1776302339189294e-09
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 738895527.3320279
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -738895527.3320279
Rp8_im_im_a2 0 x8_im_a2 1.1776302339189294e-09
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 1.0136996117722664e-09
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 6.16838441105467e-09
Cx11_a2 x11_a2 0 1.0
Gx11_a2 0 x11_a2 p2 0 0.07071067811865475
Fx11_a2 0 x11_a2 V2 3.5355339059327378
Rp11_a2 0 x11_a2 1.7806907852206085e-09
.ENDS s_equivalent
