* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.5642986598272026
Fd1_1 0 s1 V1 28.214932991360136
Gr1_1_1 0 s1 x1_a1 0 -22907744672432.656
Gr2_re_1_1 0 s1 x2_re_a1 0 -6504297401578.794
Gr2_im_1_1 0 s1 x2_im_a1 0 1656504746747.478
Gr3_re_1_1 0 s1 x3_re_a1 0 104207495118305.88
Gr3_im_1_1 0 s1 x3_im_a1 0 -104802936450742.67
Gr4_re_1_1 0 s1 x4_re_a1 0 -291664749730792.7
Gr4_im_1_1 0 s1 x4_im_a1 0 -488266732928440.1
Gr5_re_1_1 0 s1 x5_re_a1 0 -7516804518678.324
Gr5_im_1_1 0 s1 x5_im_a1 0 10961571238894.576
Gr6_1_1 0 s1 x6_a1 0 -2.866558407330436e+17
Gr7_1_1 0 s1 x7_a1 0 4.694539677371864e+16
Gr8_1_1 0 s1 x8_a1 0 2.7403915352943904e+17
Gr9_1_1 0 s1 x9_a1 0 -8.672938330906192e+16
Gr10_re_1_1 0 s1 x10_re_a1 0 -4.80094505595212e+16
Gr10_im_1_1 0 s1 x10_im_a1 0 -3.5300903071152736e+17
Gr11_1_1 0 s1 x11_a1 0 4.901931575501881e+17
Gr12_1_1 0 s1 x12_a1 0 -5.705218306508191e+17
Gr13_1_1 0 s1 x13_a1 0 2.421831293858449e+17
Gr14_1_1 0 s1 x14_a1 0 -2.2440304667528714e+18
Gr15_1_1 0 s1 x15_a1 0 2.231020185616813e+18
Gd1_2 0 s1 p2 0 0.43034780883548496
Fd1_2 0 s1 V2 21.517390441774246
Gr1_1_2 0 s1 x1_a2 0 -17472748102393.15
Gr2_re_1_2 0 s1 x2_re_a2 0 -4964611557364.26
Gr2_im_1_2 0 s1 x2_im_a2 0 1254183993207.8538
Gr3_re_1_2 0 s1 x3_re_a2 0 79638117957857.58
Gr3_im_1_2 0 s1 x3_im_a2 0 -79889393039307.62
Gr4_re_1_2 0 s1 x4_re_a2 0 -222375994570694.03
Gr4_im_1_2 0 s1 x4_im_a2 0 -373258731317750.5
Gr5_re_1_2 0 s1 x5_re_a2 0 -5766959799647.657
Gr5_im_1_2 0 s1 x5_im_a2 0 8366099220957.214
Gr6_1_2 0 s1 x6_a2 0 -2.1904755161599885e+17
Gr7_1_2 0 s1 x7_a2 0 3.58700196317702e+16
Gr8_1_2 0 s1 x8_a2 0 2.0940774293665885e+17
Gr9_1_2 0 s1 x9_a2 0 -6.6262403105404824e+16
Gr10_re_1_2 0 s1 x10_re_a2 0 -3.668594469773001e+16
Gr10_im_1_2 0 s1 x10_im_a2 0 -2.6959419851194224e+17
Gr11_1_2 0 s1 x11_a2 0 3.744024892570211e+17
Gr12_1_2 0 s1 x12_a2 0 -4.356746976424228e+17
Gr13_1_2 0 s1 x13_a2 0 1.8492984332651024e+17
Gr14_1_2 0 s1 x14_a2 0 -1.713541453516553e+18
Gr15_1_2 0 s1 x15_a2 0 1.703611347685644e+18
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.7977174659352716e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.2505849085873846e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 19136766678.986748
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -19136766678.986748
Rp2_im_im_a1 0 x2_im_a1 1.2505849085873846e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 7.9046985011375e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 14734984367.47144
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -14734984367.47144
Rp3_im_im_a1 0 x3_im_a1 7.9046985011375e-11
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.0583282721004842e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 9111928488.448862
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -9111928488.448862
Rp4_im_im_a1 0 x4_im_a1 1.0583282721004842e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 2.11924605009851e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 10186363380.621254
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -10186363380.621254
Rp5_im_im_a1 0 x5_im_a1 2.11924605009851e-10
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 1.4807330757520826e-10
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.1635146849413708e-10
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.608444545338693e-10
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 2.715182214758036e-10
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 6.080742927348302e-10
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 396790148.32026064
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -396790148.32026064
Rp10_im_im_a1 0 x10_im_a1 6.080742927348302e-10
Cx11_a1 x11_a1 0 1.0
Gx11_a1 0 x11_a1 p1 0 0.07071067811865475
Fx11_a1 0 x11_a1 V1 3.5355339059327378
Rp11_a1 0 x11_a1 4.74361897916508e-10
Cx12_a1 x12_a1 0 1.0
Gx12_a1 0 x12_a1 p1 0 0.07071067811865475
Fx12_a1 0 x12_a1 V1 3.5355339059327378
Rp12_a1 0 x12_a1 9.29736767594267e-10
Cx13_a1 x13_a1 0 1.0
Gx13_a1 0 x13_a1 p1 0 0.07071067811865475
Fx13_a1 0 x13_a1 V1 3.5355339059327378
Rp13_a1 0 x13_a1 2.7433479309654514e-09
Cx14_a1 x14_a1 0 1.0
Gx14_a1 0 x14_a1 p1 0 0.07071067811865475
Fx14_a1 0 x14_a1 V1 3.5355339059327378
Rp14_a1 0 x14_a1 1.954285832852828e-09
Cx15_a1 x15_a1 0 1.0
Gx15_a1 0 x15_a1 p1 0 0.07071067811865475
Fx15_a1 0 x15_a1 V1 3.5355339059327378
Rp15_a1 0 x15_a1 1.796042704427307e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.43034780883548496
Fd2_1 0 s2 V1 21.517390441774246
Gr1_2_1 0 s2 x1_a1 0 -17472748100298.986
Gr2_re_2_1 0 s2 x2_re_a1 0 -4964611555280.153
Gr2_im_2_1 0 s2 x2_im_a1 0 1254183992910.4802
Gr3_re_2_1 0 s2 x3_re_a1 0 79638117938046.48
Gr3_im_2_1 0 s2 x3_im_a1 0 -79889393017244.0
Gr4_re_2_1 0 s2 x4_re_a1 0 -222375994498547.2
Gr4_im_2_1 0 s2 x4_im_a1 0 -373258731266963.06
Gr5_re_2_1 0 s2 x5_re_a1 0 -5766959801193.746
Gr5_im_2_1 0 s2 x5_im_a1 0 8366099218141.257
Gr6_2_1 0 s2 x6_a1 0 -2.1904755158663866e+17
Gr7_2_1 0 s2 x7_a1 0 3.5870019626787564e+16
Gr8_2_1 0 s2 x8_a1 0 2.0940774290847635e+17
Gr9_2_1 0 s2 x9_a1 0 -6.626240309461118e+16
Gr10_re_2_1 0 s2 x10_re_a1 0 -3.668594469397673e+16
Gr10_im_2_1 0 s2 x10_im_a1 0 -2.6959419844825258e+17
Gr11_2_1 0 s2 x11_a1 0 3.7440248917685766e+17
Gr12_2_1 0 s2 x12_a1 0 -4.356746975292422e+17
Gr13_2_1 0 s2 x13_a1 0 1.8492984327363872e+17
Gr14_2_1 0 s2 x14_a1 0 -1.7135414530336174e+18
Gr15_2_1 0 s2 x15_a1 0 1.7036113472079598e+18
Gd2_2 0 s2 p2 0 0.5639962316403178
Fd2_2 0 s2 V2 28.19981158201589
Gr1_2_2 0 s2 x1_a2 0 -22895465647573.664
Gr2_re_2_2 0 s2 x2_re_a2 0 -6500808507316.142
Gr2_im_2_2 0 s2 x2_im_a2 0 1655623365305.9702
Gr3_re_2_2 0 s2 x3_re_a2 0 104151529201512.75
Gr3_im_2_2 0 s2 x3_im_a2 0 -104746793963086.88
Gr4_re_2_2 0 s2 x4_re_a2 0 -291508474489493.8
Gr4_im_2_2 0 s2 x4_im_a2 0 -488004424217757.8
Gr5_re_2_2 0 s2 x5_re_a2 0 -7512751768351.26
Gr5_im_2_2 0 s2 x5_im_a2 0 10955691946330.047
Gr6_2_2 0 s2 x6_a2 0 -2.8650190426724874e+17
Gr7_2_2 0 s2 x7_a2 0 4.69201889950079e+16
Gr8_2_2 0 s2 x8_a2 0 2.7389199145532794e+17
Gr9_2_2 0 s2 x9_a2 0 -8.668281711463888e+16
Gr10_re_2_2 0 s2 x10_re_a2 0 -4.798366933233195e+16
Gr10_im_2_2 0 s2 x10_im_a2 0 -3.528195720076511e+17
Gr11_2_2 0 s2 x11_a2 0 4.899300443425597e+17
Gr12_2_2 0 s2 x12_a2 0 -5.7021565813985126e+17
Gr13_2_2 0 s2 x13_a2 0 2.420531692707993e+17
Gr14_2_2 0 s2 x14_a2 0 -2.242826268673332e+18
Gr15_2_2 0 s2 x15_a2 0 2.2298229657837535e+18
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.7977174659352716e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.2505849085873846e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 19136766678.986748
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -19136766678.986748
Rp2_im_im_a2 0 x2_im_a2 1.2505849085873846e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 7.9046985011375e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 14734984367.47144
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -14734984367.47144
Rp3_im_im_a2 0 x3_im_a2 7.9046985011375e-11
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.0583282721004842e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 9111928488.448862
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -9111928488.448862
Rp4_im_im_a2 0 x4_im_a2 1.0583282721004842e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 2.11924605009851e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 10186363380.621254
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -10186363380.621254
Rp5_im_im_a2 0 x5_im_a2 2.11924605009851e-10
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 1.4807330757520826e-10
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.1635146849413708e-10
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.608444545338693e-10
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 2.715182214758036e-10
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 6.080742927348302e-10
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 396790148.32026064
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -396790148.32026064
Rp10_im_im_a2 0 x10_im_a2 6.080742927348302e-10
Cx11_a2 x11_a2 0 1.0
Gx11_a2 0 x11_a2 p2 0 0.07071067811865475
Fx11_a2 0 x11_a2 V2 3.5355339059327378
Rp11_a2 0 x11_a2 4.74361897916508e-10
Cx12_a2 x12_a2 0 1.0
Gx12_a2 0 x12_a2 p2 0 0.07071067811865475
Fx12_a2 0 x12_a2 V2 3.5355339059327378
Rp12_a2 0 x12_a2 9.29736767594267e-10
Cx13_a2 x13_a2 0 1.0
Gx13_a2 0 x13_a2 p2 0 0.07071067811865475
Fx13_a2 0 x13_a2 V2 3.5355339059327378
Rp13_a2 0 x13_a2 2.7433479309654514e-09
Cx14_a2 x14_a2 0 1.0
Gx14_a2 0 x14_a2 p2 0 0.07071067811865475
Fx14_a2 0 x14_a2 V2 3.5355339059327378
Rp14_a2 0 x14_a2 1.954285832852828e-09
Cx15_a2 x15_a2 0 1.0
Gx15_a2 0 x15_a2 p2 0 0.07071067811865475
Fx15_a2 0 x15_a2 V2 3.5355339059327378
Rp15_a2 0 x15_a2 1.796042704427307e-09
.ENDS s_equivalent
